US05891899
A solution of ethyl 2-(4-cyanobenzoyl)-2-(9H-thioxanthen-9-yl)acetate (5 g, 12.0 mmol) in dimethylsulphoxide (50 ml) and water (0.45 ml) was reacted as described in Example 1 (iv) and the product was isolated in a similar manner except the extraction used diethyl ether to give 4-[2-(9H-thioxanthen-9-yl)acetyl]benzonitrile as a yellow oil which solidified on standing.

reactant | ethyl 2-(4-cyanobenzoyl)-2-(9H-thioxanthen-9-yl)acetate | 12.0 mmol, 5 g | C(#N)C1=CC=C(C(=O)C(C(=O)OCC)C2C3=CC=CC=C3SC=3C=CC=CC23)C=C1 | C25H19NO3S
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | dimethylsulphoxide | 50 ml | CS(=O)C | C2H6OS
solvent | water | 0.45 ml | O | H2O
product | 4-[2-(9H-thioxanthen-9-yl)acetyl]benzonitrile | C1=CC=CC=2SC3=CC=CC=C3C(C12)CC(=O)C1=CC=C(C#N)C=C1 | C22H15NOS
